US04321372
Thiourea (22.3 g., 0.29 mole) was slurried in 275 ml. of ethanol. 2-Bromo-4-methylcyclohexanone was added and the mixture heated to reflux for 75 minutes. The reaction mixture was cooled to room temperature and the crude product recovered as the hydrobromide salt by filtration. The crude salt was dissolved in warm water, filtered and made basic with ammonium hydroxide to precipitate the free base as an oil, which crystallized on cooling. Purified 2-amino-4,5,6,7-tetrahydro-6-methylbenzthiazole (25.2 g., m.p. 98°-100° C.) was obtained by recrystallization from cyclohexane.

reactant | Thiourea | 0.29 mole, 22.3 g | NC(=S)N | CH4N2S
reactant | 2-Bromo-4-methylcyclohexanone | BrC1C(CCC(C1)C)=O | C7H11BrO
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4,5,6,7-tetrahydro-6-methylbenzthiazole | 25.2 g | NC=1SC2=C(N1)CCC(C2)C | C8H12N2S
